US04283536
(b) 2-ethyl-5-mesyloxypentanal IXe
To a solution of 2.55 g (0.01 mol) of 4-dimethoxymethyl-1-methanesulfonyloxyhexane in 40 ml of diethyl ether, 20 ml of 1.2 N HCl was added and the mixture stirred at reflux for 12 h. Solid potassium carbonate (3 g) was slowly added, the organic layer separated and the aqueous layer extracted with 25 ml of ether. The combined ether solutions were washed with brine, dried over magnesium sulfate, filtered and concentrated to 1.66 g of the aldehyde IXe;

reactant | 4-dimethoxymethyl-1-methanesulfonyloxyhexane | 0.01 mol, 2.55 g | COC(C(CCCOS(=O)(=O)C)CC)OC | C10H22O5S
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | HCl | 1.2 N, 20 ml | Cl | ClH
product | 2-ethyl-5-mesyloxypentanal | C(C)C(C=O)CCCOS(=O)(=O)C | C8H16O4S
